US07842713B2
Preparation of Intermediate 276b: Ethyl 4-{4-[(dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylate
A mixture of ethyl 2-ethyl-4-hydroxy-1-benzofuran-6-carboxylate (0.8 g, 3.4 mmol), 4-iodo-N,N-dimethylbenzamide (0.9 g, 3.3 mmol), Cs2CO3 (1.12 g, 3.4 mmol) and CuI (400 mg, 2.1 mmol) in pyridine (30 mL) was heated to 100° C. for 24 hours. TLC (petroleum ether/EtOAc 4:1) indicated the complete consumption of the phenol. The solvent was removed under reduced pressure. The residue was poured into water (20 mL) and extracted with EtOAc (30 mL×2). The combined organic layers were washed with brine (20 mL×2), dried over Na2SO4 and concentrated. The product was purified via silica gel column chromatography using petroleum ether/EtOAc (20:1 to 1:1) to afford the desired compound (400 mg, 30%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 7.97 (s, 1H), 7.56 (s, 1H), 7.43 (d, 2H), 7.00 (d, 2H), 6.27 (s, 1H), 4.44-4.35 (q, 2H), 3.15-3.04 (d, 6H), 2.83-2.78 (q, 2H), 1.45-1.37 (t, 3H), 1.37-1.26 (t, 3H).

reactant | ethyl 2-ethyl-4-hydroxy-1-benzofuran-6-carboxylate | 3.4 mmol, 0.8 g | C(C)C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)O | C13H14O4
reactant | 4-iodo-N,N-dimethylbenzamide | 3.3 mmol, 0.9 g | IC1=CC=C(C(=O)N(C)C)C=C1 | C9H10INO
reactant | Cs2CO3 | 3.4 mmol, 1.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
catalyst | CuI | 2.1 mmol, 400 mg | [Cu]I
product | Ethyl 4-{4-[(dimethylamino)carbonyl]phenoxy}-2-ethyl-1-benzofuran-6-carboxylate | 400 mg, 30% | CN(C(=O)C1=CC=C(OC2=CC(=CC3=C2C=C(O3)CC)C(=O)OCC)C=C1)C | C22H23NO5
